US06673797B1
(2) Preparation of 2,2-Dimethyl-N-(2-iodo-4-methanesulfonylphenyl)propionamide
To a solution of 2,2-dimethyl-N-(2-iodo-4-methylthiophenyl)propionamide in a mixture of tetrahydrofuran/water mixture (2:1, 210 ml), OXONE (registered trademark) (22.0 mg) was added and the mixture was stirred at 15 to 30° C. for 2 hours. After completion of the reaction, the reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution, extracted with ethyl acetate, washed with a saturated aqueous NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was recrystallized (ethyl acetate/n-hexane) to obtain 5.22 g of the desired product as a white crystal.

reactant | 2,2-dimethyl-N-(2-iodo-4-methylthiophenyl)propionamide | CC(C(=O)NC1=C(C=C(C=C1)SC)I)(C)C | C12H16INOS
reactant | OXONE | 22.0 mg | OOS(=O)[O-].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran water | 210 ml | O1CCCC1.O
product | 2,2-Dimethyl-N-(2-iodo-4-methanesulfonylphenyl)propionamide | 5.22 g | CC(C(=O)NC1=C(C=C(C=C1)S(=O)(=O)C)I)(C)C | C12H16INO3S
